US09315491B2
2-(4-Benzenesulfonylamino-phenyl)-5-ethoxy-6-morpholin-4-yl-pyrimidine-4-carboxylic acid ethyl ester
Phenyl sulfonyl chloride (0.02 ml, 1.3 eq.), Et3N (1 drop) was added to a stirred solution of 2-(4-amino-phenyl)-5-ethoxy-6-morpholin-4-yl-pyrimidine-4-carboxylic acid ethyl ester (40 mg, 1 eq.) in CH2Cl2 (2 ml) and the mixture was reacted overnight at r.t. The reaction mixture was extracted with EA and washed with brine. The crude was purified by chromatography to give a product (13 mg, 23.7%).

reactant | Phenyl sulfonyl chloride | 0.02 ml, 1.3 eq. | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 2-(4-amino-phenyl)-5-ethoxy-6-morpholin-4-yl-pyrimidine-4-carboxylic acid ethyl ester | 40 mg, 1 eq. | C(C)OC(=O)C1=NC(=NC(=C1OCC)N1CCOCC1)C1=CC=C(C=C1)N | C19H24N4O4
catalyst | Et3N | 1 drop | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-Benzenesulfonylamino-phenyl)-5-ethoxy-6-morpholin-4-yl-pyrimidine-4-carboxylic acid ethyl ester | 13 mg, 23.7% | C(C)OC(=O)C1=NC(=NC(=C1OCC)N1CCOCC1)C1=CC=C(C=C1)NS(=O)(=O)C1=CC=CC=C1 | C25H28N4O6S
